US06872718B1
3,5,6,7-Tetrahydro-2,4,6,6,8-pentamethyl-2-(1,2,4,5-tetrahydro-3H-benzazepin-3-ylmethyl)-2H-furo[2,3-f]indole hydrochloride
A suspension of 3,5,6,7-tetrahydro-2-(iodomethyl)-2,4,6,6,8-pentamethyl-2H-furo[2,3-f]indole (520 mg, 1.40 mmol), 2,3,4,5-tetrahydro-1H-3-benzazepine (309 mg, 2.10 mmol) and potassium carbonate (387 mg, 2.80 mmol) in N,N-dimethylacetamide (3 ml) was stirred for 3.5 hours at 180° C. under nitrogen atmosphere. Water was added to the reaction mixture and the mixture was extracted twice with ethyl acetate. The organic layers were combined, washed with water and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was subjected to basic silica gel column chromatography (hexane:ethyl acetate=5:1) to obtain an oil. The oil was dissolved in methanol and combined with 10% hydrogen chloride-methanol solution (1.5 ml), and concentrated under reduced pressure. The residue was crystallized from methanol-diisopropyl ether to obtain 269 mg of the title compound.

reactant | 3,5,6,7-tetrahydro-2-(iodomethyl)-2,4,6,6,8-pentamethyl-2H-furo[2,3-f]indole | 1.40 mmol, 520 mg | ICC1(CC=2C(=C(C=3CC(NC3C2C)(C)C)C)O1)C | C16H22INO
reactant | 2,3,4,5-tetrahydro-1H-3-benzazepine | 2.10 mmol, 309 mg | C1CNCCC2=C1C=CC=C2 | C10H13N
reactant | potassium carbonate | 2.80 mmol, 387 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride methanol | 1.5 ml | Cl.CO
solvent | N,N-dimethylacetamide | 3 ml | CN(C(C)=O)C | C4H9NO
solvent | methanol | CO | CH4O
solvent | Water | O | H2O
product | 3,5,6,7-Tetrahydro-2,4,6,6,8-pentamethyl-2-(1,2,4,5-tetrahydro-3H-benzazepin-3-ylmethyl)-2H-furo[2,3-f]indole hydrochloride | 269 mg, Yield: 45% | Cl.CC1(CC=2C(=C(C=3CC(NC3C2C)(C)C)C)O1)CC1CNC2=C(CC1)C=CC=C2 | InChI=1S/C26H34N2O.ClH/c1-16-21-14-26(5,12-18-10-11-19-8-6-7-9-22(19)27-15-18)29-24(21)17(2)20-13-25(3,4)28-23(16)20;/h6-9,18,27-28H,10-15H2,1-5H3;1H
